US06262059B1
4-Amino-6,7-dimethoxy-2-[4-(thiazole-2-carbonyl)-piperazin-1-yl]quinazoline Hydrochloride
The title compound was prepared from thiazole-2-carbonyl chloride (0.79 g.) and 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (1.54 g.) following previously described procedures. The product had a m.p. of 273°-276° C. with decomposition.

reactant | thiazole-2-carbonyl chloride | 0.79 g | S1C(=NC=C1)C(=O)Cl | C4H2ClNOS
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 1.54 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
product | 4-Amino-6,7-dimethoxy-2-[4-(thiazole-2-carbonyl)-piperazin-1-yl]quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1SC=CN1 | InChI=1S/C18H20N6O3S.ClH/c1-26-13-9-11-12(10-14(13)27-2)21-18(22-15(11)19)24-6-4-23(5-7-24)17(25)16-20-3-8-28-16;/h3,8-10H,4-7H2,1-2H3,(H2,19,21,22);1H
